US03944495
Zinc bis[di(n-octadecyloxyethoxyethyl)dithiophosphate] was prepared as follows: 358 grams (1 mole) of n-octadecyloxyethoxyethyl alcohol was reacted with 56 grams (0.25 mole) of phosphorus pentasulfide in 500 ml of benzene solvent. The reaction took place at 160° F. for a period of two hours. The product, di(n-octadecyloxyethoxyethyl) dithiophosphoric acid was then neutralized with 22 grams (0.27 mole) of zinc oxide. The zinc oxide was made into a paste with water before addition of the foregoing acid. The water charged to the zinc oxide totalled 20 ml. The neutralization reaction with the formation of the product salt was permitted to proceed for about 30 minutes with stirring at room temperature, and azeotroped to dryness by refluxing thereafter at a maximum of 180° F. The resulting zinc bis[di(n-octadecyloxyethoxyethyl) dithiophosphate] was stripped at 200° F. at a reduced pressure of less tha 1 millimeter mercury (mm Hg.). The yield of zinc salt was 416 grams and was characterized by the following analysis:% zinc: 4.0; calculated: 3.88% phosphorus: found 3.5: calculated: 3.68% sulfur: found 6.7; calculated: 7.6

reactant | n-octadecyloxyethoxyethyl alcohol | 1 mole, 358 grams | C(CCCCCCCCCCCCCCCCC)OCCOCCO | C22H46O3
reactant | phosphorus pentasulfide | 0.25 mole, 56 grams | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | di(n-octadecyloxyethoxyethyl) dithiophosphoric acid | C(CCCCCCCCCCCCCCCCC)OCCOCCOP(S)(OCCOCCOCCCCCCCCCCCCCCCCCC)=S | C44H91O6PS2
reactant | zinc oxide | 0.27 mole, 22 grams | [O-2].[Zn+2]
reactant | water | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | Zinc bis[di(n-octadecyloxyethoxyethyl)dithiophosphate] | C(CCCCCCCCCCCCCCCCC)OCCOCCS(=P([S-])([O-])[O-])CCOCCOCCCCCCCCCCCCCCCCCC.C(CCCCCCCCCCCCCCCCC)OCCOCCS(=P([S-])([O-])[O-])CCOCCOCCCCCCCCCCCCCCCCCC.[Zn+2].[Zn+2].[Zn+2] | InChI=1S/2C44H90O6PS2.3Zn/c2*1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-47-37-39-49-41-43-53(51(45,46)52)44-42-50-40-38-48-36-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;;;/h2*3-44H2,1-2H3;;;/q2*-3;3*+2
